US09284333B2
According to WO 2008/053319, to a solution of (−)-sparteine (2.7 g, 11.7 mmol) and pyrrolidine-1-carboxylic acid tert-butyl ester (2 g, 11.7 mmol) in dry methyl tert-butyl ether was added at −78° C. 1.4 M sec-butyllithium in cyclohexane (8.3 ml, 11.7 mmol) over 30 min and the mixture was stirred at −78° C. for 3 h. 0.5 M zinc chloride solution in tetrahydrofuran (14 ml, 7 mmol) was added at −78° C. and the mixture was stirred for 30 min at −78° C. and 30 min at 25° C. This mixture was added via a syringe to a solution of 2-bromopyrazine (1.48 g, 9.34 mmol), palladium(II) acetate (105 mg, 0.467 mmol) and tetrafluoroboric acid tri-tert-butylphosphine adduct (169 mg, 0.584 mmol) at −78° C. The mixture was stirred and allowed to slowly warm to 25° C. overnight. The solid was filtered off, to the solution was added aqueous sodium hydrogencarbonate, and the mixture was extracted 3 times with dichloromethane, solvents were evaporated and the residue was purified by reverse phase HPLC (acetonitrile/water gradient with 0.1% trifluoroacetic acid) to give 750 mg of crude product which was dissolved in dichloromethane (5 ml) and treated with 4 N hydrogen chloride in dioxane (0.8 ml, 3.2 mmol) for 2 days, and after addition of water was lyophilized to give 200 mg (17%) of crude (R)-2-pyrrolidin-2-yl-pyrazine hydrochloride which was used without purification in the next step. LC/MS (method 7): Rt=0.14 min; m/z=150.1 (M+H+).

reactant | (−)-sparteine | 11.7 mmol, 2.7 g | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | pyrrolidine-1-carboxylic acid tert-butyl ester | 11.7 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCCC1 | C9H17NO2
reactant | sec-butyllithium | 1.4 M | C(C)(CC)[Li]
reactant | cyclohexane | 11.7 mmol, 8.3 ml | C1CCCCC1 | C6H12
reactant | tetrahydrofuran | 7 mmol, 14 ml | O1CCCC1 | C4H8O
reactant | 2-bromopyrazine | 9.34 mmol, 1.48 g | BrC1=NC=CN=C1 | C4H3BrN2
reactant | tetrafluoroboric acid tri-tert-butylphosphine | 0.584 mmol, 169 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.F[B-](F)(F)F.[H+]
reactant | hydrogen chloride | 4 N | Cl | ClH
reactant | dioxane | 3.2 mmol, 0.8 ml | O1CCOCC1 | C4H8O2
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | zinc chloride | 0.5 M | [Cl-].[Zn+2].[Cl-]
catalyst | palladium(II) acetate | 0.467 mmol, 105 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | (R)-2-pyrrolidin-2-yl-pyrazine hydrochloride | 200 mg, 17% | Cl.N1[C@H](CCC1)C1=NC=CN=C1 | InChI=1S/C8H11N3.ClH/c1-2-7(10-3-1)8-6-9-4-5-11-8;/h4-7,10H,1-3H2;1H/t7-;/m1./s1
